US07411072B2
(E)-5-(8-Fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as desctribed in Example 219, beginning with (E)-5-bromomethylene-8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine (100 mg, 0.33 mmol) and 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (111 mg, 0.43 mmol). After work-up, purify the crude product by flash chromatography (100% ethyl acetate to 10% ethanol/ethyl acetate) to provide 70 mg (60%) of purified product. LCMS (APCI-pos): 358.0 (M+H). LCMS (APCI-neg): 356.0 (M−H). Purity by LCMS (UV Area percent): 99%. 1HNMR (d6-DMSO, 400 MHz): δ10.56 (s, 1H), 10/46 (s, 1H), 8.38 (dd, 1H), 7.88 (dd, 1H), 7.28 (dd, 1H), 7.23 (dd, 1H), 6.96-6.90 (m, 2H), 6.89 (s, 1H), 6.73 (d, 1H), 6.68 (d, 1H), 6.52 (s, 1H), 3.5-3.3 (m, 2H), 3.1-2.9 (m, 2H).

reactant | (E)-5-bromomethylene-8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine | 0.33 mmol, 100 mg | Br\C=C\1/C2=C(CCC3=NC=CC=C31)C=C(C=C2)F | C15H11BrFN
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 0.43 mmol, 111 mg | CC1(OB(OC1(C)C)C1=CC2=C(NC(N2)=O)C=C1)C | C13H17BN2O3
product | (E)-5-(8-Fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one | 70 mg, 60% | FC1=CC2=C(/C(/C=3C(=NC=CC3)CC2)=C\C2=CC3=C(NC(N3)=O)C=C2)C=C1 | C22H16FN3O
